US08865713B2
Step A: 5-Chloro-2-nitro-4-phenoxyphenylamine.
To a solution of phenol (0.500 g, 5.31 mmol) in dry DMF (20 mL) was added solid sodium t-butoxide (0.510 g, 5.31 mmol). The mixture was heated to 100° C. for 60 min, then 4,5-dichloro-2-nitro-phenylamine (1.00 g, 4.83 mmol) was added and the reaction mixture was heated at 100° C. for 19 h. The reaction mixture was allowed to cool to ambient temperature. The reaction mixture was added to water and extracted with EtOAc. The combined organic layers were washed with 1M Na2CO3, dried, filtered, and concentrated under reduced pressure. The residue was purified (FCC) (hexanes:EtOAc, 5% to 30% over 20 minutes) to yield the titled compound as an orange solid (0.821 g, 64%). 1H NMR (400 MHz, CDCl3): 8.27 (s, 1H), 7.50-7.34 (m, 2H), 7.27 (d, J=8.9 Hz, 2H), 7.10 (dd, J=8.6, 1.1 Hz, 2H), 6.02 (s, 3H).

reactant | phenol | 5.31 mmol, 0.500 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium t-butoxide | 5.31 mmol, 0.510 g | CC(C)([O-])C.[Na+]
reactant | 4,5-dichloro-2-nitro-phenylamine | 4.83 mmol, 1.00 g | ClC1=CC(=C(C=C1Cl)N)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-Chloro-2-nitro-4-phenoxyphenylamine | 0.821 g, 64% | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])OC1=CC=CC=C1 | C12H9ClN2O3
